US08703771B2
Preparation of N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide
tert-Butyl 4-{5-[({4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl}amino)carbonyl]-2,3-dihydro-1H-inden-1-yl}piperazin-1-carboxylate (2 g, 3.3 mmol) was dissolved in 4 N HCl in dioxane (10 mL). The solution was concentrated to obtain the solid product after being stirred at room temperature for 3 hours. The product (100 mg) was purified by high performance liquid chromatography at pH=10 to obtain the subtitle compound. MS (M+1)=506.26. 1HNMR (DMSO-d6, ppm): δ 10.08 (s, 1H); 9.20 (s, 1H); 8.93 (s, 1H); 8.62 (d, J=4.8 Hz, 1H); 8.44 (d, J=5.2 Hz, 1H); 8.40 (d, J=8.0 Hz, 1H); 8.00 (s, 1H); 7.72 (s, 1H); 7.70 (d, J=8.0 Hz, 1H); 7.45 (dd, J=8.2 Hz, 4.8 Hz, 1H); 7.41 (d, J=8.2 Hz, 1H); 7.36 (d, J=5.2 Hz, 1H); 7.31 (d, J=8.0 Hz, 1H); 7.12 (d, J=8.8 Hz, 1H); 4.22 (t, J=6.8 Hz, 1H); 2.80 (m, 2H); 2.60 (m, 4H); 2.35 (m, 2H); 2.22 (m, 2H); 2.15 (s, 3H); 2.00 (m, 2H).

reactant | tert-Butyl 4-{5-[({4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl}amino)carbonyl]-2,3-dihydro-1H-inden-1-yl}piperazin-1-carboxylate | 3.3 mmol, 2 g | CC1=C(C=C(C=C1)NC(=O)C=1C=C2CCC(C2=CC1)N1CCN(CC1)C(=O)OC(C)(C)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C35H39N7O3
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide | CC1=C(C=C(C=C1)NC(=O)C=1C=C2CCC(C2=CC1)N1CCNCC1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C30H31N7O
